US06872720B2
Toluene-4-sulfonic acid 5-acetyl-4-(2-fluorophenyl)-1H-pyrazol-3-yl ester (8.26 g, 22.1 mmol) and 2-fluorobenzhydrazide (3.86 g, 25.0 mmol) were stirred together in xylene (250 ml) at reflux overnight. The solvent was removed in vacuo, and the residue was heated in Dowtherm A at 180° C. for 2 h. The mixture was poured directly onto a column of silica gel, and the Dowtherm was eluted off with dichloromethane before eluting the product off with 10% ethyl acetate in dichloromethane (UV detection). Toluene-4-sulfonic acid 3,7-bis(2-fluorophenyl)-4-methylpyrazolo[1,5-d][1,2,4]triazin-2-yl ester was obtained as a yellow solid (6.62 g). 1H NMR (400 MHz, CDCl3) δ 2.43 (3H, s), 2.53 (3H, s), 7.17-7.37 (6H, m), 7.41-7.51 (2H, m), 7.63 (1H, m), 7.69 (3H, m); MS (ES+) m/e 493 [MH]+.

reactant | Toluene-4-sulfonic acid 5-acetyl-4-(2-fluorophenyl)-1H-pyrazol-3-yl ester | 22.1 mmol, 8.26 g | C(C)(=O)C1=C(C(=NN1)OS(=O)(=O)C1=CC=C(C=C1)C)C1=C(C=CC=C1)F | C18H15FN2O4S
reactant | 2-fluorobenzhydrazide | 25.0 mmol, 3.86 g | FC1=C(C(=O)NN)C=CC=C1 | C7H7FN2O
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Toluene-4-sulfonic acid 3,7-bis(2-fluorophenyl)-4-methylpyrazolo[1,5-d][1,2,4]triazin-2-yl ester | FC1=C(C=CC=C1)C=1C(=NN2C(=NN=C(C21)C)C2=C(C=CC=C2)F)OS(=O)(=O)C2=CC=C(C=C2)C | C25H18F2N4O3S
